US03998958
A 6.73 g. (0.05 mole) sample of 2-imino-1-methylpyrrolidine HCl is converted to free base in the usual way. To the K 2 CO 3 -dried, benzene extracts are added a pre-filtered solution of 3,4 -dichlorophenylisocyanate (9.4 g.; 0.05 mole). Almost immediately there is a separation of product. After stirring for a short time, the product is collected and recrystallized from acetone-methanol-water and finally from acetone-water to give the pure product, 1(3,4-dichlorophenyl)-3-(1-methyl-2-pyrrolidylidene)urea. m.p. = 160°-⪆°C.

reactant | 2-imino-1-methylpyrrolidine HCl | Cl.N=C1N(CCC1)C
reactant | 3,4 -dichlorophenylisocyanate | 0.05 mole, 9.4 g | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1(3,4-dichlorophenyl)-3-(1-methyl-2-pyrrolidylidene)urea | ClC=1C=C(C=CC1Cl)NC(=O)N=C1N(CCC1)C | C12H13Cl2N3O
